US07691898B2
(1) [2-Benzyloxy-5-(4-ethylbenzyl)benzyl]phosphonic acid diethylester
Triethyl phosphite (0.6 mL) was added to 2-benzyloxy-5-(4-ethylbenzyl)benzylchloride (1.00 g), and the mixture was stirred for 4 hr at 150-160° C. The mixture was purified by silica gel column chromatography (ethyl acetate/n-hexane=1/2) to give the title compound (1.09 g) as a colorless oil.

reactant | Triethyl phosphite | 0.6 mL | P(OCC)(OCC)OCC | C6H15O3P
reactant | 2-benzyloxy-5-(4-ethylbenzyl)benzylchloride | 1.00 g | C(C1=CC=CC=C1)OC1=C(CCl)C=C(C=C1)CC1=CC=C(C=C1)CC | C23H23ClO
product | [2-Benzyloxy-5-(4-ethylbenzyl)benzyl]phosphonic acid diethylester | 1.09 g | C(C)OP(OCC)(=O)CC1=C(C=CC(=C1)CC1=CC=C(C=C1)CC)OCC1=CC=CC=C1 | C27H33O4P
